US05093328
trans-1-Benzyloxycarbonyl-4-hydroxy-L-proline (3.06 g) was dissolved in dry dichloromethane (48 ml), and triethylamine (1.75 ml) was added thereto, followed by addition of ethyl chloroformate (1.88 g) at -50° C. under nitrogen stream. The resultant mixture was stirred at -30° to -50° C. for 30 minutes, and a solution of methylamine (1.44 g) in dichloromethane (5 ml) and methanol (3.7 ml) was added thereto at -50° C. Stirring was continued at -30° to -50° C. for 20 minutes. The reaction mixture was successively washed with dilute hydrochloric acid, aqueous sodium chloride solution, dilute sodium hydroxide solution and sodium chloride solution and dried over magnesium sulfate. After removal of the solvent, the residue was crystallized from ether to give (2S,4R)-1-benzyloxycarbonyl-2-methylaminocarbonyl-4-hydroxypyrrolidine.

reactant | trans-1-Benzyloxycarbonyl-4-hydroxy-L-proline | 3.06 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C13H15NO5
reactant | triethylamine | 1.75 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.88 g | ClC(=O)OCC | C3H5ClO2
reactant | methylamine | 1.44 g | CN | CH5N
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 3.7 ml | CO | CH4O
product | (2S,4R)-1-benzyloxycarbonyl-2-methylaminocarbonyl-4-hydroxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)NC | C14H18N2O4
